US09290476B2
(1-Methyl-1H-imidazol-5-yl)(3-methyl-4-nitrophenyl)methanone
A solution of EtMgBr (3.0 M in diethylether, 8.5 mL, 25.689 mmol) was added dropwise, over a 25 minutes period, to a solution of 5-bromo-1-methyl-1H-imidazole (4.1 g, 25.689 mmol) in dry DCM (25 mL). The mixture was stirred at room temperature for 15 minutes, cooled in an ice-brine bath and N-methoxy-N,3-dimethyl-4-nitrobenzamide (4.8 g, 21.408 mmol, Intermediate 40: step a) dissolved in 10 mL of DCM was added dropwise. A dark brown solid mass formed. The ice bath was removed and mixture stirred at room temperature for 48 hours. Water was added to the suspension followed by 6M aqueous HCl slowly to neutralize the mixture (pH=6-7). More DCM was added and layers separated. The organic layer was dried over Na2SO4, filtered and concentrated. Et2O was added, the slurry sonicated, and precipitates filtered to provide the title compound as a tan solid.

reactant | EtMgBr | 25.689 mmol, 3.0 M, 8.5 mL | CC[Mg+].[Br-]
reactant | 5-bromo-1-methyl-1H-imidazole | 25.689 mmol, 4.1 g | BrC1=CN=CN1C | C4H5BrN2
reactant | N-methoxy-N,3-dimethyl-4-nitrobenzamide | CON(C(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O)C | C10H12N2O4
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (1-Methyl-1H-imidazol-5-yl)(3-methyl-4-nitrophenyl)methanone | CN1C=NC=C1C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])C | C12H11N3O3
